US07432256B2
b) 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-5-methoxy-benzonitrile
In analogy to example 5b, 5-methoxy-2-(4-methyl-imidazol-1-yl)-benzonitrile was reacted with Eschenmoser's salt in DMF for 16 h at 70° C. Evaporation of the solvent, aqueous workup and chromatography afforded the title compound as an oil (yield: 83%). MS: m/e=271.4 [M+H]+.

reactant | 5-methoxy-2-(4-methyl-imidazol-1-yl)-benzonitrile | COC=1C=CC(=C(C#N)C1)N1C=NC(=C1)C | C12H11N3O
reactant | Eschenmoser's salt | C[N+](=C)C.[I-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-5-methoxy-benzonitrile | yield: 83% | CN(C)CC1=C(N=CN1C1=C(C#N)C=C(C=C1)OC)C | C15H18N4O
